US06667316B1
A stirred mixture of 5-amino-5-(3-ethoxy-4-methoxyphenyl)pentan-3-ol hydrochloride(1.15 g, 3.97 mmol), 3-acetamidophthalic anhydride (0.82 g, 3.97 mmol) and triethylamine (0.4 g, 3.97 mmol) in DMF (20 mL) was heated at 80-90° C. for 6 hours. The mixture was then concentrated in vacuo. The residue was dissolved in ethyl acetate (80 mL), washed with water (30 mL), brine (30 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by chromatography (Silica gel, methylene chloride:ethyl acetate 8:2) to give N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxypentyl]-1,3-dioxoisoindolin-4-yl}acetamide (1.35 g, 77%) ; 1H NMR (CDCl3) δ9.52 (s, 1H), 8.71 (d, J=8.4 Hz, 1H), 7.63 (t, J=7.6 Hz, 1H), 7.48 (d, J=7.3 Hz, 1H), 7.09-7.07 (m, 2H), 6.83-6.80 (m, 1H), 5.61-5.55 (J=3.9, 11.9 Hz, 1H), 4.11 (q, J=6.9 Hz, 2H), 3.84 (s, 3H), 3.47 (m, 1H), 2.97-2.86 (m, 1H), 2.25 (s, 3H), 2.06-1.95 (m, 1H), 1.78 (b, 1H), 1.62-1.52 (m, 2H), 1.45 (t, J=7.0 Hz, 3H), 0.95 (t, J=7.3 Hz, 3H); 13C NMR (CDCl3) δ170.39, 169.23, 168.11, 148.94, 148.14, 137.32, 135.83, 131.81, 131.19, 124.72, 120.30, 117.94, 115.31, 112.87, 111.09, 70.01, 64.36, 55.86, 51.29, 37.92, 30.46, 24.92, 14.73, 9.90.

reactant | 5-amino-5-(3-ethoxy-4-methoxyphenyl)pentan-3-ol hydrochloride | 3.97 mmol, 1.15 g | Cl.NC(CC(CC)O)C1=CC(=C(C=C1)OC)OCC
reactant | 3-acetamidophthalic anhydride | 3.97 mmol, 0.82 g | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1 | C10H7NO4
reactant | triethylamine | 3.97 mmol, 0.4 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxypentyl]-1,3-dioxoisoindolin-4-yl}acetamide | 1.35 g, 77% | C(C)OC=1C=C(C=CC1OC)C(CC(CC)O)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C24H28N2O6
